US07317012B2
Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-cyclohexyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A suspension of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (36 mg, 0.1 mmol), bromocyclohexane (40 μL, 0.3 mmol) and solid K2CO3 (42 mg, 0.3 mmol) in anhydrous DMF (1 mL) was stirred at 75° C. for 17 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional bromocyclohexane (50 μL, 0.375 mmol) was added, the reaction was allowed to continue at 75° C. for 24 h more. After cooling to room temperature, the reaction mixture was partitioned between water (20 mL) and EtOAc (20 mL). The separated EtOAc layer was washed with saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluting with a gradient of EtOAc (0-60%) in hexanes to yield a yellow glassy product, which was lyophilized in acetonitrile to afford 15 mg (34%) of the title compound as a yellow powder. LC/MS (method A): retention time=4.06 min, (M+H)+=439. 1H NMR (CDCl3, 400 MHz): δ 7.18-7.50 (m, 5H), 7.19 (d,J=8.8 Hz, 2H), 7.03 (d,J=8.8 Hz, 2H), 4.47 (m, 1H), 1.26-2.04 (m, 10H).

reactant | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.1 mmol, 36 mg | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | bromocyclohexane | 0.3 mmol, 40 μL | BrC1CCCCC1 | C6H11Br
reactant | K2CO3 | 0.3 mmol, 42 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromocyclohexane | 0.375 mmol, 50 μL | BrC1CCCCC1 | C6H11Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-cyclohexyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 15 mg, 34% | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(N(N2)C2CCCCC2)=O)C2=CC=C(C=C2)Cl | C23H20Cl2N4O
